US07943629B2
(5-Bromo-2-chloropyrimidin-4-yl)phenylamine
In analogy to compound 1.1, a solution of 0.3 g (1.32 mmol) of 5-bromo-2,4-dichloro-pyrimidine in 5 ml of acetonitrile is reacted with 0.13 ml (1.42 mmol) of aniline in the presence of 0.22 ml (1.6 mmol) of triethylamine. Purification by chromatography (silica gel, ethyl acetate/hexane with ethyl acetate 0-100%) results in 0.289 g (77% of theory) of the product.

reactant | 5-bromo-2,4-dichloro-pyrimidine | 1.32 mmol, 0.3 g | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | aniline | 1.42 mmol, 0.13 ml | NC1=CC=CC=C1 | C6H7N
reactant | triethylamine | 1.6 mmol, 0.22 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | (5-Bromo-2-chloropyrimidin-4-yl)phenylamine | BrC=1C(=NC(=NC1)Cl)NC1=CC=CC=C1 | C10H7BrClN3
